US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.15 g, 0.70 mmol), m-toluoyl chloride (0.096 mL, 0.73 mmol), and poly(vinylpyridine) (0.5 g) in dichloromethane (17 mL) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-3-methylbenzamide (0.19 g). MS (ESI) m/z 334 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.70 mmol, 0.15 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | m-toluoyl chloride | 0.73 mmol, 0.096 mL | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)-3-methylbenzamide | 0.19 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(C3=CC(=CC=C3)C)=O | C22H23NO2
